US06492385B2
Step 64c: Preparation of N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-(phenyl-sulfanyl)-1,3,4-thiadiazole-2-carboxamide.
5-Phenylsulfanyl-[1,3,4]thiadiazole-2-carboxylic acid (3.76 mmol) is placed in a flask and put under nitrogen. The acid is chilled in an ice bath. Oxalyl chloride (9 mL) that has also been cooled in an ice bath is added drop wise to the acid. The excess oxalyl chloride is removed under reduced pressure. The acid chloride is dissolved in about 5 mL CH2Cl2. The freebase of (R)-3-aminoquinuclidine (0.5 g, 2.52 mmol, 0.67 eq) is also dissolved in CH2Cl2 (5 mL), and the solution containing the acid chloride is cannulated into the flask containing the aminoquinuclidine. The reaction is stirred overnight at room temperature. The reaction mixture is diluted with MeOH, and poured through a Dowex 50AGWX2 CH+ column. The impurities are removed by washing the column with MeOH, and the product is eluted by washing the column with a solution containing 5% TEA in MeOH. The solvent is removed under reduced pressure, and the product is further purified by silica gel chromatography using a Biotage Flash 40M column (5% MeOH/CH2Cl2). This gives Example 64 (0.289 g, 22%) as a tan oil. MS (ESI) for C16H18N4OS2 m/z 347.2 (M+H)+.

reactant | 5-Phenylsulfanyl-[1,3,4]thiadiazole-2-carboxylic acid | 3.76 mmol | C1(=CC=CC=C1)SC1=NN=C(S1)C(=O)O | C9H6N2O2S2
reactant | Oxalyl chloride | 9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (R)-3-aminoquinuclidine | 2.52 mmol, 0.5 g, 0.67 eq | N[C@H]1CN2CCC1CC2 | C7H14N2
reactant | aminoquinuclidine | NC1N2CCC(C1)CC2 | C7H14N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-(phenyl-sulfanyl)-1,3,4-thiadiazole-2-carboxamide | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC(=NN2)SC2=CC=CC=C2 | C16H18N4OS2
